US04933361
One gram of platinum(IV) oxide was added to a solution of 80 g of 3,4,5,6,7,8-hexahydro-1H-quinolin-2-one and this was hydrogenated at 20° to 25° C. under normal pressure. After filtration of the reaction solution, it was evaporated and the residue was fractionally crystallized from n-hexane. 35 g of cis-octahydro-1H-quinolin-2-one having a melting point of 123° to 126° C. were obtained.

reactant | 3,4,5,6,7,8-hexahydro-1H-quinolin-2-one | 80 g | N1C(CCC=2CCCCC12)=O | C9H13NO
catalyst | platinum(IV) oxide | One gram | [Pt](=O)=O
product | cis-octahydro-1H-quinolin-2-one | 35 g | N1C(CC[C@@H]2CCCC[C@H]12)=O | C9H15NO
